US07427612B2
[5-Methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 294 from (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (compound CK) and 4-Methyl-1H-pyrazole (43%yield, white solid, MS (m/e): 493.1 (M+H, 100%)

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
reactant | 4-Methyl-1H-pyrazole | CC=1C=NNC1 | C4H6N2
product | [5-Methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)N1N=CC(=C1)C | C23H23F3N4O3S
